US05171753
α-[[[2-(Phenylmethoxy)propyl]amino]methyl]benzenemethanol.
A mixture of styrene oxide (1.96 g, 0.010 mol) and 2-benzyloxypropylamine (2.48 g, 0.15 mol) was heated at 140° C. for 6 hours and then allowed to cool to ambient temperature and stand for 12 hours. The solidified reaction mixture was triturated with isooctane and filtered to obtain an impure solid that was recrystallized from isooctane to obtain 2.40 g of a white solid (84% yield); mp 90°-100° C. (undefined).

reactant | styrene oxide | 0.010 mol, 1.96 g | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | 2-benzyloxypropylamine | 0.15 mol, 2.48 g | C(C1=CC=CC=C1)OC(CN)C | C10H15NO
product | α-[[[2-(Phenylmethoxy)propyl]amino]methyl]benzenemethanol | 2.40 g, 84% yield | C1(=CC=CC=C1)COC(CNCC(O)C1=CC=CC=C1)C | C18H23NO2
